US07989497B2
Step 3: (R)-1-(tetrahydrofuran-2-yl)propan-1-ol
To a cooled (0° C.) solution of (R)-1-(tetrahydrofuran-2-yl)propan-1-one (16.16 g, 1 equiv) in MeOH was added portionwise sodium tetrahydroborate (4.77 g, 1 equiv). After stirring at 0° C. for 1 hour, the reaction was quenched with 5M HCl and allowed to stir for further for 10 minutes. The mixture was concentrated in vacuo to remove MeOH and EtOAc and water were added. The organic portion was separated and the aqueous layer extracted several times with EtOAc. The combined organic extracts were dried (MgSO4) and concentrated in vacuo to afford the title compound.

reactant | (R)-1-(tetrahydrofuran-2-yl)propan-1-one | 16.16 g, 1 equiv | O1[C@H](CCC1)C(CC)=O | C7H12O2
reactant | sodium tetrahydroborate | 4.77 g, 1 equiv | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | (R)-1-(tetrahydrofuran-2-yl)propan-1-ol | O1C(CCC1)[C@@H](CC)O | C7H14O2
